US08580794B2
4-(1-(2,2-difluoroethyl)piperidin-4-ylamino)-3-nitrobenzenesulfonamide
3-nitro-4-(piperidin-4-ylamino)benzenesulfonamide hydrochloride (0.100 g), 1,1-difluoro-2-iodoethane (0.063 mL) and diisopropylamine (0.156 mL) were stirred together in N,N-dimethylformamide (3 ml) and heated to 85° C. The reaction was diluted with dichloromethane (50 mL) and washed with water (50 mL), brine (50 mL), dried over magnesium sulfate, filtered, and concentrated. The residue was loaded onto silica gel (GraceResolve 12 g) and eluted using a gradient of 0.5% methanol/dichloromethane to 3% methanol/dichloromethane over 30 minutes to give the title compound.

reactant | 3-nitro-4-(piperidin-4-ylamino)benzenesulfonamide hydrochloride | 0.100 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1NC1CCNCC1)S(=O)(=O)N
reactant | 1,1-difluoro-2-iodoethane | 0.063 mL | FC(CI)F | C2H3F2I
reactant | diisopropylamine | 0.156 mL | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(1-(2,2-difluoroethyl)piperidin-4-ylamino)-3-nitrobenzenesulfonamide | FC(CN1CCC(CC1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-])F | C13H18F2N4O4S
